US06613942B1
To a solution of methyl 2-chloro-4-hydroxybenzoate (13.6 g, 73.1 mmol) in acetic acid (300 mL) was added N-chlorosuccinimide (9.8 g, 73.7 mmol). The solution was refluxed for 24 h and the solvent was evaporated under vacuo. The residue was taken up in chloroform, washed with water, brine, dried over magnesium sulfate, filtered and concentrated. Methyl 2,3-dichloro-4-hydroxybenzoate precipitated out of ethyl acetate. Chromatography of the residue using ethyl acetate/hexane (1/9 to 3/7) afforded methyl 2,5-dichloro-4-hydroxybenzoate (1.4 g, 60%) as well as an additional batch of methyl 2,3-dichloro-4-hydroxybenzoate isomer (total of 8.4 g, 10%).

reactant | methyl 2-chloro-4-hydroxybenzoate | 73.1 mmol, 13.6 g | ClC1=C(C(=O)OC)C=CC(=C1)O | C8H7ClO3
reactant | N-chlorosuccinimide | 73.7 mmol, 9.8 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | methyl 2,5-dichloro-4-hydroxybenzoate | 1.4 g, 60% | ClC1=C(C(=O)OC)C=C(C(=C1)O)Cl | C8H6Cl2O3
